US04283420
3. 1-tert-butyl-1-cyclohexyl-carboxylic acid (Example 40)
BuOK in 300 cm3 of anhydrous dimethylsulfoxide and 15.5 g of ethyl 1-tert-butyl-cyclohexyl-carboxylate were heated for 7 hours at 110° C. The mixture was then poured on ice. By acidification with dilute HCl the tert-butyl-cyclohexyl-carboxylic acid was precipitated.

reactant | BuOK | C(CCC)O[K]
reactant | ethyl 1-tert-butyl-cyclohexyl-carboxylate | 15.5 g | C(C)(C)(C)C1(CCCCC1)C(=O)OCC | C13H24O2
solvent | dimethylsulfoxide | 300 cm3 | CS(=O)C | C2H6OS
product | 1-tert-butyl-1-cyclohexyl-carboxylic acid | C(C)(C)(C)C1(CCCCC1)C(=O)O | C11H20O2
